US08957069B2
1-(4-Methoxyphenyl)-4-(2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 5-bromo-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran (300 mg, 1.18 mmol) synthesized in Reference example 15 and 1-(4-methoxyphenyl)piperazine (678 mg, 3.53 mmol), the reaction was carried out in the same manner as Example 1 to obtain the title compound 250 mg (yield 58%). Melting point was 180 to 182° C. (ethyl acetate-hexane).

reactant | 5-bromo-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran | 1.18 mmol, 300 mg | BrC=1C(=C(C2=C(CC(O2)(C)C)C1)C)C | C12H15BrO
reactant | 1-(4-methoxyphenyl)piperazine | 3.53 mmol, 678 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 1-(4-Methoxyphenyl)-4-(2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 250 mg, yield 58% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1)C)C | C23H30N2O2
